US07674802B2
Methyl 1-{3-[4-(3-chloro-indazol-2-yl)-phenoxy]-propyl}-piperidine-4-carboxylate:
The title compound was prepared 3-chloro-2-[4-(3-chloro-propoxy)-phenyl]-2H-indazole (0.5 g, 1.6 mmol) and ethyl isonipecotate (0.37 g, 2.3 mmol) using the procedure of step 4 of the Example 4 to provide the title compound (0.56 g, 75%) as a hydrochloride salt.

reactant | 3-chloro-2-[4-(3-chloro-propoxy)-phenyl]-2H-indazole | 1.6 mmol, 0.5 g | ClC=1N(N=C2C=CC=CC12)C1=CC=C(C=C1)OCCCCl | C16H14Cl2N2O
reactant | ethyl isonipecotate | 2.3 mmol, 0.37 g | N1CCC(C(=O)OCC)CC1 | C8H15NO2
product | Methyl 1-{3-[4-(3-chloro-indazol-2-yl)-phenoxy]-propyl}-piperidine-4-carboxylate | 0.56 g, 75% | ClC=1N(N=C2C=CC=CC12)C1=CC=C(OCCCN2CCC(CC2)C(=O)OC)C=C1 | C23H26ClN3O3
